US09255110B2
A mixture of acetic acid 5-acetylamino-2-nitro-phenyl ester (20.5 g, 85.77 mmol) and potassium carbonate (26 g, 188.4 mmol) in methanol (200 mL) was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, water (250 mL) was added and the resulting mixture was acidified by addition of concentrated hydrochloric acid. The solid which crushed out was triturated, collected by filtration, washed with water and dried under vacuum to afford N-(3-hydroxy-4-nitro-phenyl)-acetamide.

reactant | acetic acid 5-acetylamino-2-nitro-phenyl ester | 85.77 mmol, 20.5 g | C(C)(=O)NC=1C=CC(=C(C1)OC(C)=O)[N+](=O)[O-] | C10H10N2O5
reactant | potassium carbonate | 188.4 mmol, 26 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 mL | CO | CH4O
product | N-(3-hydroxy-4-nitro-phenyl)-acetamide | OC=1C=C(C=CC1[N+](=O)[O-])NC(C)=O | C8H8N2O4
